US06010981
5. Preparation of 2-Methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoic Acid
A mixture of 2.2 g (6.5 mmol) of 2-methyl-4-methylsulfonyl-3-(4-methylthiophenyl)benzoic acid, 2.2 mL (19.6 mmol) of 30 percent hydrogen peroxide, and 25 mL of acetic acid was heated to 80° C. with stirring for 1 hour and was then allowed to stand overnight. The mixture was diluted with water, treated with sodium bisulfite, and then extracted with a mixture of ether and ethyl acetate. The extract was concentrated by evaporation under reduced pressure and the residue was diluted with dichloromethane. The resulting mixture was filtered and the solids that were collected were washed with ethyl acetate. The filtrate was found to contain only about 0.5 g of impure product and was discarded. The solids were dissolved (a slow process) in a mixture of ethyl acetate and water and the organic phase was separated and concentrated by evaporation under reduced pressure. The resulting solid residue was diluted with hexane and the insoluble solids were recovered by filtration and dried to obtain 2.1 g (88 percent of theory) of the title compound as a white powder melting at 214-215° C.

reactant | 2-methyl-4-methylsulfonyl-3-(4-methylthiophenyl)benzoic acid | 6.5 mmol, 2.2 g | CC1=C(C(=O)O)C=CC(=C1C1=CC=C(C=C1)SC)S(=O)(=O)C | C16H16O4S2
reactant | hydrogen peroxide | 19.6 mmol, 2.2 mL | OO | H2O2
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-Methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoic Acid | CC1=C(C(=O)O)C=CC(=C1C1=CC=C(C=C1)S(=O)(=O)C)S(=O)(=O)C | C16H16O6S2
